US04645846
Preparation of N-(3-Dimethylaminopropyl)-N'-(3-Triethoxysilylpropyl)Urea (XVI)
To a stirred solution of 3-isocyanatopropyltriethoxysilane (74 g; 0.31 mole) was slowly added 30 g (0.30 mole) of N,N-dimethyl-1,3-propanediamine. There was a significant exotherm. The product was purified by strip distillation at 205° C. (0.1 torr). NMR (CDCl3) 0.40-0.9 (m; 2H), 1.22 (t; 9H), 1.4-1.9 (m; 4H), 2.21 (s; 6H), 2.33 (t; 2H), 2.9-3.4 (m; 4H), 3.81 (q; 6H), 5.8 (b, 2H) ppm. IR (neat film) 3340, 2980, 2940, 1635, 1575, 1105, 1080, 960, 780 cm-1.

reactant | 3-isocyanatopropyltriethoxysilane | 0.31 mole, 74 g | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
reactant | N,N-dimethyl-1,3-propanediamine | 0.30 mole, 30 g | CN(CCCN)C | C5H14N2
product | N-(3-Dimethylaminopropyl)-N'-(3-Triethoxysilylpropyl)Urea | CN(CCCNC(=O)NCCC[Si](OCC)(OCC)OCC)C | C15H35N3O4Si
